** sch_path: /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/cgenerator.sch
.subckt cgenerator vdd vout vss
*.PININFO vdd:B vss:B vout:O
xi1 vdd net1 net9 vss inv_ring_osc
xi2 vdd net9 net8 vss inv_ring_osc
xi3 vdd net8 net7 vss inv_ring_osc
xi4 vdd net7 net6 vss inv_ring_osc
xi5 vdd net6 net5 vss inv_ring_osc
xi6 vdd net5 net4 vss inv_ring_osc
xi7 vdd net4 net3 vss inv_ring_osc
xi8 vdd net3 net2 vss inv_ring_osc
xi9 vdd net2 net11 vss inv_ring_osc
x1 vdd net1 vout vss buff_ring_osc
xi10 vdd net11 net10 vss inv_ring_osc
xi11 vdd net10 net1 vss inv_ring_osc
.ends

* expanding   symbol:  /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/inv_ring_osc.sym # of pins=4
** sym_path: /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/inv_ring_osc.sym
** sch_path: /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/inv_ring_osc.sch
.subckt inv_ring_osc vdd in out vss
*.PININFO vdd:B vss:B in:I out:O
M1 out in vss vss sg13_lv_nmos w=2u l=1u ng=1 m=1
M2 out in vdd vdd sg13_lv_pmos w=4u l=1u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/buff_ring_osc.sym # of pins=4
** sym_path: /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/buff_ring_osc.sym
** sch_path: /home/designer/shared/designs/SSDOR_1.2V_v3/components/cgenerator/buff_ring_osc.sch
.subckt buff_ring_osc vdd in out vss
*.PININFO in:I vdd:B vss:B out:O
M1 net1 in vss vss sg13_lv_nmos w=2u l=0.13u ng=1 m=1
M2 net1 in vdd vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1
M3 out net1 vdd vdd sg13_lv_pmos w=8u l=0.13u ng=2 m=1
M4 out net1 vss vss sg13_lv_nmos w=4u l=0.13u ng=2 m=1
.ends

